US04075001
An attempted preparation by the method of Example VI, part C, was unsuccessful. Thus, a mixture of 129 g of potassium tricyanomethanide, 59 g of ethylmethylamine, and 2000 ml of dimethoxyethane was treated with 65 ml (96 g) of methanesulfonic acid added dropwise during 30 min. The reaction was mildly exothermic and solid formation was noted during addition of the methanesulfonic acid. The reaction mixture was heated under reflux for one hour and was allowed to stand two days at ambient temperature. The solids were removed by filtration and the filter cake was washed with toluene. The combined filtrate and washings were evaporated under reduced pressure. The residue was heated to 200° in an oven. The residue was removed from the oven and water was added immediately. The near boiling aqueous suspension was treated with charcoal and filtered through a mat of Filter-Aid® diatomaceous earth in a large, steam heated, Buchner funnel. The aqueous filtrate was allowed to cool, producing crystals. The crystals were collected by filtration, dried, and recrystallized from acetonitrile to yield 86 g of 3-amino-2-cyano-3-(ethylmethylamino)propenenitrile, mp 140°-141°. The ir spectrum was consistent with the assigned structure.

reactant | potassium tricyanomethanide | 129 g | C(#N)[C-](C#N)C#N.[K+]
reactant | ethylmethylamine | 59 g | C(C)NC | C3H9N
reactant | methanesulfonic acid | 65 ml, 96 g | CS(=O)(=O)O | CH4O3S
solvent | dimethoxyethane | 2000 ml | C(OC)COC | C4H10O2
product | 3-amino-2-cyano-3-(ethylmethylamino)propenenitrile | 86 g | NC(=C(C#N)C#N)N(C)CC | C7H10N4
